US07335658B2
A solution of 4-(2-trifluoromethylthiobenzoyl)piperazine-1-carboxylic acid tert-butyl ester (2.1 g, 5.61 mmol) in dichloromethane and trifluoroacetic acid (30 mL, 2:1) was stirred at ambient temperature overnight, the solvents were removed by evaporation. The residue was dissolved in ethyl acetate, and washed with aqueous saturated NaHCO3 and brine, dried over anhydrous Na2SO4 and concentrated to give piperazin-1-yl-(2-trifluoromethylphenyl)methanethione (1.47 g, 5.36 mmol) which was used directly for next step without further purification.

reactant | 4-(2-trifluoromethylthiobenzoyl)piperazine-1-carboxylic acid tert-butyl ester | 5.61 mmol, 2.1 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=S | C17H21F3N2O2S
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | trifluoroacetic acid | 30 mL | FC(C(=O)O)(F)F | C2HF3O2
product | piperazin-1-yl-(2-trifluoromethylphenyl)methanethione | 5.36 mmol, 1.47 g | N1(CCNCC1)C(=S)C1=C(C=CC=C1)C(F)(F)F | C12H13F3N2S
